US04324796
Sodium 2-(3-phenylpropyl)oxirane-2-carboxylate
5 g of 2-(3-phenylpropyl)oxirane-2-carboxylic acid is dissolved in the equivalent amount of 1 N sodium hydroxide solution, and the resulting aqueous solution is washed once with diethyl ether and evaporated to dryness. The glassy residue, which is dried at 20° C. in vacuo, consists of the pure sodium salt.

reactant | 2-(3-phenylpropyl)oxirane-2-carboxylic acid | 5 g | C1(=CC=CC=C1)CCCC1(OC1)C(=O)O | C12H14O3
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
product | Sodium 2-(3-phenylpropyl)oxirane-2-carboxylate | C1(=CC=CC=C1)CCCC1(OC1)C(=O)[O-].[Na+] | InChI=1S/C12H14O3.Na/c13-11(14)12(9-15-12)8-4-7-10-5-2-1-3-6-10;/h1-3,5-6H,4,7-9H2,(H,13,14);/q;+1/p-1
